US06262045B1
1.1. Ethyl 1-ethyl-5-fluoro-1H-indole-2-carboxylate
(washed beforehand with petroleum ether) and of 15 g (72.4 mmol) of ethyl 5-fluoro-1H-indole-2-carboxylate in 100 ml of dimethylformamide is stirred for 2 h at room temperature. 7.5 ml (93.7 mmol) of iodoethane, in solution in 20 ml of dimethylformamide, are subsequently added. After stirring for 10 h at room temperature, the reaction mixture is poured onto ice-cold water. It is extracted with diethyl ether. The organic phase is washed several times with water, dried over magnesium sulphate and concentrated under reduced pressure. 17 g (72 mmol) of a yellow oil are obtained, which oil is used as is in the following stage.

reactant | ethyl 5-fluoro-1H-indole-2-carboxylate | 72.4 mmol, 15 g | FC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10FNO2
reactant | iodoethane | 93.7 mmol, 7.5 ml | ICC | C2H5I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Ethyl 1-ethyl-5-fluoro-1H-indole-2-carboxylate | 72 mmol, 17 g | C(C)N1C(=CC2=CC(=CC=C12)F)C(=O)OCC | C13H14FNO2
